US09085570B2
A solution of 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide (300 mg, 0.66 mmol, 1.00 equiv), acetic acid (59.3 mg, 0.99 mmol, 1.50 equiv) and 2-methylpropanal (57 mg, 0.79 mmol, 1.20 equiv) in 1,2-dichloroethane (3 mL) was stirred at room temperature for 4 h. Sodium triacetoxyborohydride (420 mg, 1.98 mmol, 3.00 equiv) was added in small batches and the resulting solution was stirred overnight at 30° C. The resulting mixture was concentrated under vacuum and the residue was diluted with 2 mL of methanol. The solution was loaded onto a C18 column and eluted with acetonitrile/water to give 200 mg (59%) of 4-(5-methyl-4-[[1-(2-methylpropyl) piperidine-4-sulfonyl]methyl]-1,3-oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a white solid. LC-MS (ES, m/z): 511 [M+H]+, 306, 256; 1HNMR (300 MHz, CD3OD, ppm) δ 8.60 (s, 1H), 8.47 (d, 1H), 8.11 (d, 2H), 7.99 (d, 2H), 7.89 (d, 1H), 7.47-7.43 (m, 1H), 4.65 (s, 2H), 4.41 (s, 2H), 3.33-3.08 (m, 3H), 2.50.

reactant | 4-[5-methyl-4-[(piperidine-4-sulfonyl)methyl]-1,3-oxazol-2-yl]-N-(pyridin-3-ylmethyl)benzamide | 0.66 mmol, 300 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1CCNCC1 | C23H26N4O4S
reactant | acetic acid | 0.99 mmol, 59.3 mg, 1.50 equiv | C(C)(=O)O | C2H4O2
reactant | 2-methylpropanal | 0.79 mmol, 57 mg, 1.20 equiv | CC(C=O)C | C4H8O
reactant | Sodium triacetoxyborohydride | 1.98 mmol, 420 mg, 3.00 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 4-(5-methyl-4-[[1-(2-methylpropyl) piperidine-4-sulfonyl]methyl]-1,3-oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 200 mg, 59% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1CCN(CC1)CC(C)C | C27H34N4O4S
